US04076812
With stirring and cooling with ice, 79.17 ml (0.569 mole) of trifluoroacetic acid anhydride are added dropwise to a solution of 100 g (0.517 mole) of 5H-dibenz[b,f]azepine in 1000 ml of benzene in such a manner that the temperature does not exceed 30° C. After a further 4 hours, 79.5 ml of triethylamine are added to neutralise the trifluoroacetic acid that has formed and the reaction mixture is then shaken out with 500 ml of water. The organic phase is separated, washed with saturated sodium chloride solution, dried over sodium sulphate and concentrated by rotary evaporation until the first crystals form. After addition of petroleum ether, 5-(trifluoroacetyl)-5H-dibenz[b,f]azepine is obtained as crystals with a melting point of 86°-99° C. The crystallisation of the mother liquor yields still further substance which melts at 85°-91° C, cf. Edward Gipstein et al., Anal. Calorimetry. Proc. Symp. second, 1970, 127-34 (C.A. 74, 125016n).

reactant | trifluoroacetic acid anhydride | 0.569 mole, 79.17 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 5H-dibenz[b,f]azepine | 0.517 mole, 100 g | C1=CC=CC=2NC3=C(C=CC21)C=CC=C3 | C14H11N
reactant | triethylamine | 79.5 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | benzene | 1000 ml | C1=CC=CC=C1 | C6H6
solvent | water | 500 ml | O | H2O
product | 5-(trifluoroacetyl)-5H-dibenz[b,f]azepine | FC(C(=O)N1C2=C(C=CC3=C1C=CC=C3)C=CC=C2)(F)F | C16H10F3NO
